US04795751
A mixture of 5-benzylamino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (700 mg), 5% palladium-carbon (0.2 g), acetic acid (10 ml), and ethanol (15 ml) was stirred at room temperature for 30 minutes under a hydrogen stream. The catalyst was filtered off and the filtrate was evaporated under reduced pressure. After addition of water to the residue, the mixture was adjusted to pH 8 with aqueous ammonia. The resulting crystals were filtered to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (510 mg), m.p. 254°-255° C.

reactant | 5-benzylamino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 700 mg | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)C)F)C1CC1)C(=O)O)=O | C25H26F2N4O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 510 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
